US05849766
A. Ethyl 2-(4-Hy droxyphenyl)oxazole-4-carboxylate
A mixture of 25.0 g (182.3 mmol) of 4-hydroxybenzamide and 23.0 mL (182.3 mmol) of ethyl bromopyruvate was stirred and heated at 115° C. for 30 minutes. The mixture cooled to room temperature and sat under N2 atmosphere overnight. Ethyl acetate (100 mL) was added and the mixture stirred for 1 hour. The solid oxazole (36.99 g, 158.6 mmol) was collected by suction filtration in 87% yield: 1H NMR (CDCl3) δ 10.21 (broad s, 1H), 8.82 (s, 1H), 7.83 (d, J=8.7 Hz, 2H), 6.90 (d, J=8.7 Hz, 2H), 4.29 (q, 2H), 1.29 (t, 3H); IR (cm-1) 3400, 3169, 1731, 1612, 1731, 1507, 1444; FDMS 233. Anal. (C12H11NO4) C, H, N.

reactant | 4-hydroxybenzamide | 182.3 mmol, 25.0 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | ethyl bromopyruvate | 182.3 mmol, 23.0 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | oxazole | 158.6 mmol, 36.99 g | O1C=NC=C1 | C3H3NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-Hy droxyphenyl)oxazole-4-carboxylate | 87% yield | OC1=CC=C(C=C1)C=1OC=C(N1)C(=O)OCC | C12H11NO4
